US07977352B2
To a solution of racemic-1-(2-fluoro-4-nitrophenyl)-trans-2,4,5-trimethylpiperazine (0.10 g, 0.4 mmol) in 4 mL EtOH is added 0.04 g of 5% Pd/C. The atmosphere over the reaction is evacuated and replaced with H2 thrice and then fitted with a balloon filled with H2 gas. After stirring 12 h, the crude reaction mixture is filtered through Celite, rinsed with EtOH, concentrated in vacuo and chromatographed (silica gel, 10% MeOH in CH2Cl2) to give 0.027 g (0.12 mmol, 32%) of racemic-3-fluoro-4-(trans-2,4,5-trimethylpiperazin-1-yl)aniline as a yellow liquid. 1H NMR (300 MHz, CDCl3) δ 0.86 (d, J=6.0 Hz, 3H), 1.07 (d, J=6.0 Hz, 3H), 2.16 (t, J=10.8 Hz, 2H), 2.34 (s, 3H), 2.72 (t, 1H), 2.83-2.92 (m, 2H), 3.19 (br. s., 1H), 3.58 (br. s., 2H), 6.32-6.40 (m, 2H), 6.92-7.00 (m, 1H). LCMS-ESI (m/z): calcd for C13H20FN3, 237.1; [M+H]+ found, 238.2.

reactant | racemic-1-(2-fluoro-4-nitrophenyl)-trans-2,4,5-trimethylpiperazine | 0.4 mmol, 0.10 g | FC1=C(C=CC(=C1)[N+](=O)[O-])N1[C@H](CN([C@@H](C1)C)C)C | C13H18FN3O2
solvent | EtOH | 4 mL | CCO | C2H6O
catalyst | Pd/C | 0.04 g | [Pd] | Pd
product | racemic-3-fluoro-4-(trans-2,4,5-trimethylpiperazin-1-yl)aniline | 0.12 mmol, 0.027 g, 32% | FC=1C=C(N)C=CC1N1[C@H](CN([C@@H](C1)C)C)C | C13H20FN3
